US07544697B2
A solution of ethyl 1-butyl-5-methyl-1H-pyrazole-3-carboxylate (18.1 g, 86.1 mmol) in methanol (25 mL) was treated with ammonium hydroxide (25 mL) according to a modification of the method described in Part D of Examples 1-4. At the end of the reaction, the methanol was removed under reduced pressure, and the remaining solution was cooled in a refrigerator. A precipitate formed, was isolated by filtration, and was washed with water. The solid (9 g) was recrystallized from hexane (300 mL) and ethyl acetate (30 mL), isolated by filtration, washed with hexane, and air-dried to provide 6.95 g of 1-butyl-5-methyl-1H-pyrazole-3-carboxamide as colorless plates, mp 113.5-114.5° C.

reactant | ethyl 1-butyl-5-methyl-1H-pyrazole-3-carboxylate | 86.1 mmol, 18.1 g | C(CCC)N1N=C(C=C1C)C(=O)OCC | C11H18N2O2
reactant | ammonium hydroxide | 25 mL | [OH-].[NH4+]
solvent | methanol | 25 mL | CO | CH4O
product | 1-butyl-5-methyl-1H-pyrazole-3-carboxamide | 6.95 g | C(CCC)N1N=C(C=C1C)C(=O)N | C9H15N3O
